US09227985B2
2-Bromo-1-(pyridin-3-yl)ethanone hydrobromide (600 mg, 2 mmol) (HBr salt) was added to a mixture of 2-amino-3-nitrophenol (300 mg, 2 mmol) and potassium carbonate (400 mg, 3 mmol) in acetone (30 mL, 400 mmol) at room temperature. The reaction was stirred at room temperature for 18 h, was diluted with water, and was then extracted with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered, and concentrated to give crude 2-(2-amino-3-nitrophenoxy)-1-pyridin-3-ylethanone (0.35 g, 60%). LCMS calculated for C13H12N3O4 (M+H)+: m/z=274.1. found: 274.1.

reactant | 2-Bromo-1-(pyridin-3-yl)ethanone hydrobromide | 2 mmol, 600 mg | Br.BrCC(=O)C=1C=NC=CC1
reactant | 2-amino-3-nitrophenol | 2 mmol, 300 mg | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | potassium carbonate | 3 mmol, 400 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 400 mmol, 30 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-(2-amino-3-nitrophenoxy)-1-pyridin-3-ylethanone | 0.35 g, 60% | NC1=C(OCC(=O)C=2C=NC=CC2)C=CC=C1[N+](=O)[O-] | C13H11N3O4
